US06114390
c) 4-[(2-Oxo-1-imidazolidinyl)methyl]benzenemethanamine-hydrochloride
Prepared analogously to Example 43b) from 1-[(4-cyanophenyl)methyl]imidazolidin-2-one by catalytic hydrogenation using palladium/activated charcoal and in the presence of 1 equivalent of 1N hydrochloric acid in a yield of 81% of theory. Colourless crystals, Mp. >250° C. (Tetrahydrofuran).

reactant | 1-[(4-cyanophenyl)methyl]imidazolidin-2-one | C(#N)C1=CC=C(C=C1)CN1C(NCC1)=O | C11H11N3O
reactant | hydrochloric acid | 1N, 1 equivalent | Cl | ClH
catalyst | palladium | [Pd] | Pd
solvent | Tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[(2-Oxo-1-imidazolidinyl)methyl]benzenemethanamine-hydrochloride | yield of 81% | Cl.O=C1N(CCN1)CC1=CC=C(C=C1)CN | InChI=1S/C11H15N3O.ClH/c12-7-9-1-3-10(4-2-9)8-14-6-5-13-11(14)15;/h1-4H,5-8,12H2,(H,13,15);1H
